US04307094
Alkylation of methyl hexahydro-1,3-dioxo-1H-1,2,4-triazolo[1,2-a]pyridazine-5-carboxylate with 1-bromo-2-chloroethane in a manner analogous to that described in the preceding paragraph gave methyl 2-(2-chloroethyl)-2,3,5,6,7,8-hexahydro-1,3-dioxo-1H-1,2,4-triazolo[1,2-a]pyridazine-5-carboxylate of melting point 94°-95° C.

reactant | methyl hexahydro-1,3-dioxo-1H-1,2,4-triazolo[1,2-a]pyridazine-5-carboxylate | O=C1NC(N2N1CCCC2C(=O)OC)=O | C8H11N3O4
reactant | 1-bromo-2-chloroethane | BrCCCl | C2H4BrCl
product | methyl 2-(2-chloroethyl)-2,3,5,6,7,8-hexahydro-1,3-dioxo-1H-1,2,4-triazolo[1,2-a]pyridazine-5-carboxylate | ClCCN1C(N2N(CCCC2C(=O)OC)C1=O)=O | C10H14ClN3O4
